US04215123
1-Ethyl-1,2-dihydro-4-hydroxy-2-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester
To a solution of 0.115 g. (0.005 g. atom) of sodium in 20 ml. of ethanol was added 1.6 g. (0.01 mole) of diethyl malonate. After stirring for 5 minutes the solution was evaporated in a rotary evaporator. The residue was dissolved in 15 ml. of N,N-dimethylformamide and 0.96 g. (0.005 mole) of 1-ethyl-2H-pyrido[2,3-d]-[1,3]oxazine-2,4[1H]dione was added. The mixture was heated under reflux for 1.5 hours. The mixture was cooled, diluted with a little water and was acidified with concentrated hydrochloric acid. The precipitate which formed was collected, air dried and was recrystallized from heptane to give 0.2 g. of the title product, m.p. 120°-2° C.

reactant | sodium | 0.005 g | [Na] | Na
reactant | diethyl malonate | 0.01 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-ethyl-2H-pyrido[2,3-d]-[1,3]oxazine-2,4[1H]dione | 0.005 mole | C(C)N1C(OC(C2=C1N=CC=C2)=O)=O | C9H8N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-1,2-dihydro-4-hydroxy-2-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | C(C)N1C(C(=C(C2=CC=CN=C12)O)C(=O)OCC)=O | C13H14N2O4
